US07776867B2
Step 1: Preparation of (4-ethylpiperazin-1-yl)(4-iodophenyl)methanone (63)
Into a 100 mL round bottom flask was placed 4-iodobenzoyl chloride (2.67 g, 0.01 mmol) and dichloromethane (25 mL). The flask was placed in an ice water bath. Then N-ethylpiperazine (2.6 mL, 0.021 mmol) was added dropwise with stirring. The reaction was allowed to stir for 10 days at room temperature. Saturated aqueous potassium carbonate (50 mL) was added, and the product was extracted with ethyl acetate (3×100 mL). The organic layers were dried over sodium sulfate, filtered through a silica plug, and concentrated under reduced pressure to afford the title compound as a yellow oil. Mass found by LC-MS(+): 345 M+H+); calc. for C19H29BN2O3: 344.26.

reactant | 4-iodobenzoyl chloride | 0.01 mmol, 2.67 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | N-ethylpiperazine | 0.021 mmol, 2.6 mL | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (4-ethylpiperazin-1-yl)(4-iodophenyl)methanone | C(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)I | C13H17IN2O
